US08754075B2
b) 5-(2,2,3,3-Tetrafluoro-propoxy)-pyridine-2-carboxylic acid
In a manner analogous to that described in example 17b), the hydrolysis of the 5-(2,2,3,3-tetrafluoro-propoxy)-pyridine-2-carboxylic acid methyl ester with lithium hydroxide yielded the title compound as a light yellow solid (yield 94% of theory). MS (ISP): m/z=253 [M]+.

reactant | 5-(2,2,3,3-tetrafluoro-propoxy)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)OCC(C(F)F)(F)F | C10H9F4NO3
reactant | lithium hydroxide | [OH-].[Li+]
product | 5-(2,2,3,3-Tetrafluoro-propoxy)-pyridine-2-carboxylic acid | yield 94% | FC(COC=1C=CC(=NC1)C(=O)O)(C(F)F)F | C9H7F4NO3
